Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Erectile Dysfunction
 
Major Surgical or Invasive Procedure:
INSERTION OF PENILE PROSTHESIS

 
History of Present Illness:
___ with erectile dysfunction presents for insertion of penile 
prosthesis. 

 
Past Medical History:
PMHx:  
HYPERTENSION - ESSENTIAL [401.9] - Primary  
Irregular heart beat [427.9]  
PVC (premature ventricular contraction) [427.69]  
AK (actinic keratosis) [702.0]  
Hearing loss [389.9]  
Erectile dysfunction [607.84]  
Leukocytopenia  
ADENOMA  
FATTY LIVER  
CANCER - PROSTATE  
ANEURYSM - AORTIC, UNSPEC SITE  
ROTATOR CUFF TEAR  
HYPERCHOLESTEROLEMIA  
DIVERTICULOSIS  
SLEEP APNEA  
ESOPHAGEAL REFLUX  
DERMATOCHALASIS  
TINNITUS, UNSPEC  
HYPERTENSION - ESSENTIAL  

Mr. ___ has a history of Hypertension, hyperlipidemia, 
prostate cancer, but no heart disease who was noted to have 
frequent PVCs and ECG.  He reports that on routine examination 
he was noted frequent PVCs and ECG.  A Holter monitor was then 
performed which demonstrated about 15% monomorphic PVCs over a 
24-hour period.  He reports being totally asymptomatic.  He 
feels well and is active working as a ___.  He denies any 
exertional complaints.  He has never had any lightheadedness, 
syncope, or palpitations.  He denies feeling any skipped 
symptoms and his heart rhythm.  He did have some episodes of 
lightheadedness, but this mainly with pain when bending over and 
standing up quickly.  He believes was related to dehydration.  
 
Social History:
___
Family History:
Family Medical History:                                          
          
    Comment: COLON CA MOTHER LATE ___'S.
Family history of premature CAD: none
Family history of sudden death: none
Family history of arrhythmias: none

 
Physical Exam:
WdWn male, NAD, AVSS
Interactive, cooperative
Abdomen soft, Nt/Nd
Hemiscrotum Incision c/d/i w/out evidence hematoma or infection
NO Ecchymosis at penile shaft/scrotum 
Lower extremities w/out edema or pitting and no report of calf 
pain 

 
Pertinent Results:
None for this admission
 
Brief Hospital Course:
Mr. ___ was admitted to Dr. ___ service for 
placement of penile prosthesis. No concerning intraoperative 
events occurred; please see dictated operative note for details. 
The patient received vancomycin and gentamicin for pre-operative 
infection prophylaxis and post-operatively for prophylaxis. 
Post-op course was uncomplicated. His foley catheter was removed 
POD1 and the patient voided without difficulty.  Hemovac drain 
was removed on POD 1 during morning rounds.  At discharge, 
patient's pain was well controlled with oral pain medications, 
tolerating regular diet, ambulating without assistance, and 
voiding without difficulty. Incision at discharge without 
erythema or hematoma. Specific instructions about prosthesis 
care given, and also included in this discharge summary.
 
Medications on Admission:
Hearing Aid Accessory Miscellaneous Misc Evaluation ___ 
___, MD ___  
___ Temazepam 15 mg Oral Capsule Take 1 capsule at bedtime 
as needed for sleep ___, MD  
___ Fluticasone 50 mcg/actuation Nasal Spray, Suspension 
Use 2 sprays in each nostril once daily ___, MD  
___ Amlodipine 10 mg Oral Tablet Take ___ tablet daily 
(=5mg daily). note dose change ___, MD  
___ Lisinopril 40 mg Oral Tablet Take 1 tablet daily ___ 
___, MD  
___ Hydrochlorothiazide 25 mg Oral Tablet Take 1 tablet 
daily ___, MD  

 
Discharge Medications:
1. Acetaminophen ___ mg PO Q6H:PRN pain 
2. Amlodipine 5 mg PO DAILY 
HOLD for SBP < 110 or HR < 55 
3. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg ONE capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*1
4. Hydrochlorothiazide 25 mg PO DAILY 
HOLD for SBP < 110 or HR < 55 
5. Lisinopril 40 mg PO DAILY 
HOLD for SBP < 110 or HR < 55 
6. OxycoDONE (Immediate Release)  ___ mg PO Q6H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth Q6hrs Disp #*45 Tablet 
Refills:*0
7. Cephalexin 500 mg PO Q6H Duration: 7 Days 
RX *cephalexin 500 mg ONE tablet(s) by mouth Q6hrs Disp #*28 
Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Erectile Dysfunction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please also refer to the instructions provided to you by the 
manufacturer

-GENTLY pull down on the NEW implanted bulb-prosthesis in the 
right hemi-scrotum to facilitate placement in most dependent 
portion of scrotum. 

-ALWAYS call to inform, review and discuss any medication 
changes and your post-operative course with your primary care 
doctor.

-___ keep your phallus at midline, pointed toward your 
umbilicus, taped in place with protective gauze if necessary for 
the next week. Of course you may point it downward for voiding.

-over the next several days you may experience some increased 
swelling of your phallus and scrotum resembling a semi-rigid 
phalus (semi-erect); this is normal. This may be accompanied by 
discoloration (ecchymosis) involving the phallus and the 
scrotum; this too is normal and will gradually resolve.

-Please remove the surgical dressing over penis and/or under 
scrotum on post-operative day two (___): no further wound 
care is needed and you may leave the wound open to air. Wear 
comfortable, loose fitting briefs or boxer-briefs for 
support--they should be cotton and/or breathable

-Do NOT use prosthesis for 6 weeks and until explicitly advised 
by your urologist

-Complete a 7 day course of antibiotics as directed (usually 
Keflex/Cephalexen) 

-You may shower, but do NOT bathe, swim or otherwise immerse 
your incision. 

-Do not lift anything heavier than a phone book and no sports, 
vigorous physical activity (including ___ 

-Tylenol should be your first line pain medication, a narcotic 
pain medication has been prescribed for breakthough pain >4. 
Replace Tylenol with narcotic pain medication. Max daily Tylenol 
dose is 4gm, note that narcotic pain medication also contains 
Tylenol (acetaminophen) 

-Do not drive or drink alcohol while taking narcotics and do not 
operate dangerous machinery

-Colace has been prescribed to avoid post surgical constipation 
and constipation related to narcotic pain medication, 
discontinue if loose stool or diarrhea develops. Colace is a 
stool "softener"- it is NOT a laxative

-Resume all of your home medications, except hold NSAID 
(aspirin, and ibuprofen containing products such as advil & 
motrin) for ONE week or until you see your urologist in 
follow-up OR you are explicitly advised to resume sooner by your 
PCP, ___ or Cardiologist

-If you have fevers > 101.5 F, vomiting, or increased redness, 
swelling, or discharge from your incision, call your doctor or 
go to the nearest emergency room. 

 
Followup Instructions:
___